US08084435B2
Pyridyldithio-Alcohol 3.
3-Aminopropanol (0.76 ml, 10 mmol) was dissolved in a mixture of CH2Cl2 (5 ml) and 2-propanol (3 ml) and cooled in an ice bath. A solution of SPDP (1.23 g, 3.9 mmol) in CH2Cl2 (2 ml) was added dropwise in ca. 1 min. The mixture was stirred in the cooling bath for 1.25 h, and a 13% aqueous solution of NaH2PO4 (15 ml) and 85% H3PO4 (0.5 ml) were added. The products were extracted with ethyl acetate (2×30 ml), the organic layers were washed with 13% NaH2PO4, 15% KHCO3 and dried in vacuo. The crude compound 3 (1.14 g) was purified by flash-chromatography on silica-gel, elution with mixtures of CHCl3 and 2-propanol (100:0 to 100:7 by volume). Yield of pure compound 3 was 1.01 g (94%). TLC of compound 3 (CHCl3-2-propanol, 9:1): one spot, Rf ca. 0.3. 1H NMR of compound 3 (CDCl3), δ, ppm: 1.68 (quint., 6 Hz, 2H), 2.60 (t, 7 Hz, 2H), 3.05 (t, 7 Hz, 2H), 3.4 (br., 1H), 3.42 (q, 6 Hz, 2H), 3.62 (br., 2H), 6.99 (br., 1H), 7.10 (m, 1H), 7.58-7.65 (m, 1H).

reactant | 3-Aminopropanol | 10 mmol, 0.76 ml | NCCCO | C3H9NO
reactant | SPDP | 3.9 mmol, 1.23 g | C1CC(=O)N(C1=O)OC(=O)CCSSC2=CC=CC=N2 | C12H12N2O4S2
reactant | H3PO4 | 0.5 ml | OP(=O)(O)O | H3O4P
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | 2-propanol | 3 ml | CC(C)O | C3H8O
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | Pyridyldithio-Alcohol | N1=C(C=CC=C1)SSO | C5H5NOS2
